US08049016B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-((3-fluoropyridin-2-yl)methyl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with (3-fluoropyridin-2-yl)methanamine to react with 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white solid in 60% yield: mp 142-144° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.38-8.31 (m, 2H), 7.69-7.62 (m, 1H), 7.39-7.33 (m, 1H), 4.51-4.54 (m, 2H), 4.00-3.95 (m, 2H), 3.64-3.59 (m, 2H), 3.06 (d, J=6.0 Hz, 2H), 2.44 (s, 3H), 0.96-0.87 (m, 1H), 0.49-0.42 (m, 2H), 0.21-0.16 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 162.2, 159.1, 157.9, 155.7, 151.2, 146.2, 145.4, 124.5, 123.6, 118.2, 48.2, 42.5, 42.3, 40.8, 17.5, 9.3, 3.6; MS (ES+) m/z 389.9 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | (3-fluoropyridin-2-yl)methanamine | FC=1C(=NC=CC1)CN | C6H7FN2
reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-((3-fluoropyridin-2-yl)methyl)-4-methylthiazole-5-carboxamide | 60% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=NC=CC=C1F)=O | C18H20FN5O2S
